US09062048B2
Step A: 8-vinyl-1,4-dioxaspiro[4.5]decane
To a flask containing triphenylphosphonium bromide-sodamide complex (20.04 g, 48.10 mmol) was added THF (100 mL). After stirring @ rt for 1 hour, the solution was bright yellow (with some ppt). The r×n mixture was cooled to 0° C. and a solution of 1,4-dioxaspiro[4.5]decane-8-carbaldehyde (693 mg, 4.07 mmol, prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292) in THF (20 mL) was added dropwise via syringe. After the complete addition, the reaction mixture turned light peach and was stirred, warming to rt overnight. The reaction was quenched cautiously with saturated aq NaHCO3 at 0° C. and allowed to warm to room temperature, followed by water and extraction with ether. The concentrated organic layers were purified by flash chrom (silica gel, ether, stains PAA). To avoid losing some material on the rotovap (seems volatile), the bath temperature was kept under 35° C.

reactant | 1,4-dioxaspiro[4.5]decane-8-carbaldehyde | 4.07 mmol, 693 mg | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 8-vinyl-1,4-dioxaspiro[4.5]decane | C(=C)C1CCC2(OCCO2)CC1 | C10H16O2
